data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5180,"CCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CC(C)C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,5533,"CC[CH:1]=[N+:2](C)C.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7645,"C1C[S+:1]=[CH:2]S1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4900,"C1=CC=CC=C1.C1=CC=[NH+]C=C1.CC(=CC[C:1](C)=[O:2])[NH:3]C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9448,"CC1=CC(=[O+:1][H:2])CC(C)(C)CC=C1.O.O=C(O)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6900,"C1=CC=[N:1]C=C1.CN(C)C1=CC=[N+](C([O-])(C2=CC=CC=C2)[NH+:2](C2=C([N+](=O)[O-])C=CC=C2)[H:3])C=C1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9330,"CC(=O)O[C:1](C)=[O:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8539,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2CCC2)C=C1|(2, 1)"
train,pmechdb_split_0,0,7357,"C1CCOC1.CC(=O)[O:1][H:2].CCOC(=O)C(=O)C(CC(C(=O)OCC)=[O:3])C1=C([N+](=O)[O-])C(N2CCCCC2)=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3060,"CC=C[CH2:1][O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9436,"C1CC[NH:1]C1.CCN(CC)CC.COC(=O)C1=CN(C)C2=C(C1=O)[C:2](Cl)=[CH:3][C:4](=[O:5])N2C|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8127,"N#CC1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2090,"CS[CH:1]([OH+:2]C)[O:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4064,"C[P:1](Cl)(Cl)([Mg][Br])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3679,"C[O+](C)[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9921,"O=S(=O)(O)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6344,"CC(C)CC[NH:1]CCCCC(=O)N1CCCC1.CC[N+:2](CCN(CCCl)CCC(C)C)(C(C)C)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5891,"O=S(=O)(O)[C:1]1([H:2])C2=C(C=CC(C(F)(F)F)=C2)C=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6235,"CCO[C:1]([CH:2](C(C)=O)[H:3])=[O:4].CCO[C:5](=[CH2:6])[O-:7]|(7, 5);((5, 6), 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6556,"C=CC[O:1]C.CO[CH+:2][CH:3](C)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,1371,"C1CCC(CC[N:1]2CCCC2[CH2:2][Cl:3])CC1.CCNC(=O)CCCNCC1CCCCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5095,"C=[CH:1][B-:2]1([CH:3](Cl)[Cl:4])OC2CC3CC(C3(C)C)C2(C)O1.[Li+]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2100,"O=S(=O)(O)[O:1][H:2].OC(C1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2677,"CCOCC.C[N+:1](C)=[CH:2]OP(Cl)(Cl)(Cl)Cl.FB(F)F.O=C(CC1=CC=C(O)C=C1)C1=C(O)C=C(O)C=C1O.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5088,"CC(=O)[O:1][H:2].CC([NH+](C)C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9317,"C1=CC=C(N2N=NN=C2[S-:1])C=C1.C=C1CC(C=C(C)Br)OC(CC[O+:2](P(C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)N(NC(=O)OCC)C(=O)OCC)[H:3])C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7689,"C[C+:1](C)CCC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,6615,"C1CCOC1.CCOC(=O)C1=C[N:1]([H:2])C2=C(C=CC=C2)C1=O.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3466,"C1=CC=C(C[NH2:1])C=C1.CC(=O)O.O=C(CC[C:2](C1=CC=CC=C1)=[O:3])C1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1292,"C[C:1]1=[O+:2]C(O)(C2=CC=CC=C2)C[C:3]1(C(=O)OCC1=CC=CC=C1)[H:4].O=S(=O)(C(F)(F)F)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,209,"CC(C)C(CCC1=CCCC1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6268,"CC1=CC=CC(C)=[N:1]1.C[Si](C)(C)OS(=O)(=O)C(F)(F)F.O=C1CCC2(OC3=CC=CC4=CC=CC(=C43)O2)C2=CC=CC([O:2][H:3])=C12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3231,"C1=CC=C(C(C2=CC=CC=C2)(C2=CCCCC2)[O-:1])C=C1.CC(C)(C)I.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,4727,"CC(=O)[O-].O=C(OC1CC[C:1]([N:2]2CCN(C3=CC=CC=C3)CC2)([OH2+:3])CC1)C1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5677,"CC(=O)O.CC(C)(C)OC(=O)NC1CC[C:1](=[O:2])CC1.CC(C)OC1=C(N2CC[NH:3]CC2)C=CC(F)=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10275,"CN[S+:1](C)[OH:2]|(2, 1)"
train,pmechdb_split_0,0,9495,"CCC(CC1CCCCC1)C(CC(OC(C)(C)C)=[O+][Si:1](C)(C)C)[O-:2].[Cl][Ti]([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,2504,"C[CH:1]=[O+:2]C.C[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8566,"CC(=O)[O:1][H:2].O=C(OC1CCC(N2CCN(C3=CC=CC=C3)CC2)([OH:3])CC1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4399,"C1CC[NH2+]CC1.CCC(C)C(NC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2)C(=O)NC.CN(C)C=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8445,"CC(=O)OCC1OC(C[CH+:1][CH2:2][Si-:3](C)(C)(C)[O+]=C(C)O[Si](C)(C)C)C=CC1OC(C)=O.O=S(=O)([O-])C(F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,270,"CC(=O)[O-].NCC[NH:1][C:2](C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7067,"C[Si](C)(C)C=[C:1]=[CH2:2].[Cl:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
